US07589088B2
To a stirred solution of 4-chloro-2-phenylpyrimidine-5-carbaldehyde (50 mg, 0.23 mmol) and 4-chloro-o-toluene boronic acid (48 mg, 0.29 mmol) in dioxane (1 mL) and H2O (0.5 mL) was added Pd(PPh3)4 (26.5 mg, 0.02 mmol), K2CO3 (126.5 mg, 0.92 mmol). The reaction was heated to 85° C. for 6 hrs. After concentration under reduced pressure, the residue was diluted with EtOAc (10 mL) and the organic layer was washed with saturated NH4Cl solution (10 mL), and brine (10 mL), dried (MgSO4), filtered and concentrated under reduced pressure to give the crude product (70 mg). The crude product was purified by flash chromatography (silica gel, 20% EtOAc/hexane) to give 4-(4-chloro-2-methylphenyl)-2-phenylpyrimidine-5-carbaldehyde (63 mg, 75%) as a white solid.

reactant | 4-chloro-2-phenylpyrimidine-5-carbaldehyde | 0.23 mmol, 50 mg | ClC1=NC(=NC=C1C=O)C1=CC=CC=C1 | C11H7ClN2O
reactant | 4-chloro-o-toluene boronic acid | 0.29 mmol, 48 mg | ClC=1C=C(C(=CC1)C)B(O)O | C7H8BClO2
reactant | K2CO3 | 0.92 mmol, 126.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 26.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-chloro-2-methylphenyl)-2-phenylpyrimidine-5-carbaldehyde | 63 mg, 75% | ClC1=CC(=C(C=C1)C1=NC(=NC=C1C=O)C1=CC=CC=C1)C | C18H13ClN2O
